US06130217
4-(2-Methylthiazol-4-yl)-phenol hydrobromide was prepared from α-bromo-4-hydroxyacetophenone and thioacetamide as described in Preparation 48; m.p. 250-251° C. (CH2Cl2).

reactant | α-bromo-4-hydroxyacetophenone | C1=CC(=CC=C1C(=O)CBr)O | C8H7BrO2
reactant | thioacetamide | C(C)(=S)N | C2H5NS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2-Methylthiazol-4-yl)-phenol hydrobromide | Br.CC=1SC=C(N1)C1=CC=C(C=C1)O | InChI=1S/C10H9NOS.BrH/c1-7-11-10(6-13-7)8-2-4-9(12)5-3-8;/h2-6,12H,1H3;1H
